US07501411B2
Step 3: (5-Bromo-[1,2,4]triazolo[1,5-a]pyrazin-8-yl)-[4-(1-isopropylpiperidin-4-yl)phenyl]amine
N,N-Diisopropylethylamine (200 μL, 1.2 mmol) is added to a mixture of 4-(1-isopropylpiperidin-4-yl)phenylamine (220 mg, 1.0 mmol) and 5,8-dibromo-[1,2,4]triazolo[1,5-a]pyrazine (280 mg, 1.0 mmol) in iPrOH (5 mL) and heated at reflux for 48 h. The mixture is cooled and the solvent evaporated under reduced pressure to afford an orange-brown solid. This is partitioned between DCM (50 mL) and water (20 mL) and the layers are separated. The organic phase is washed with citric acid (10% aq., 3×25 mL). The combined washings are extracted with DCM (25 mL) and then made basic by addition of NaHCO3 (s). The mixture is extracted with DCM (3×25 mL) and the combined extracts dried over MgSO4 and evaporated. The crude product was purified by chromatography on silica gel, eluting with 5%-10% MeOH in DCM to afford the desired compound, contaminated with the starting aniline. This was recrystallised from MeOH to afford the pure title compound (110 mg).

reactant | N,N-Diisopropylethylamine | 1.2 mmol, 200 μL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 4-(1-isopropylpiperidin-4-yl)phenylamine | 1.0 mmol, 220 mg | C(C)(C)N1CCC(CC1)C1=CC=C(C=C1)N | C14H22N2
reactant | 5,8-dibromo-[1,2,4]triazolo[1,5-a]pyrazine | 1.0 mmol, 280 mg | BrC1=CN=C(C=2N1N=CN2)Br | C5H2Br2N4
solvent | iPrOH | 5 mL | CC(C)O | C3H8O
product | (5-Bromo-[1,2,4]triazolo[1,5-a]pyrazin-8-yl)-[4-(1-isopropylpiperidin-4-yl)phenyl]amine | BrC1=CN=C(C=2N1N=CN2)NC2=CC=C(C=C2)C2CCN(CC2)C(C)C | C19H23BrN6
